US07705038B2
Preparation of (Z)-2-(4-Chloro-phenyl)-3-(1-ethoxymethyl-1H-pyrrol-2-yl)acrylonitrile
To a solution of 4-chlorophenylacetonitrile (500 mg, 3.30 mmol), 1-ethoxymethyl-1H-pyrrole-2-carbaldehyde (520 mg, 3.39 mmol, 1.03 equiv.), and 18-crown-6 ether as a phase transfer catalyst (87 mg, 0.33 mmol) in toluene (30 ml) was added potassium hydroxide (185 mg, 3.30 mmol) and the mixture was heated to 80° C. for 3 h, then stirred at room temperature overnight. The solution was filtered through a small plug of silica and concentrated to afford an oil (705 mg). This is Compound 7 in Table 8.

reactant | 4-chlorophenylacetonitrile | 3.30 mmol, 500 mg | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 1-ethoxymethyl-1H-pyrrole-2-carbaldehyde | 3.39 mmol, 520 mg, 1.03 equiv. | C(C)OCN1C(=CC=C1)C=O | C8H11NO2
reactant | 18-crown-6 ether | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium hydroxide | 3.30 mmol, 185 mg | [OH-].[K+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-2-(4-Chloro-phenyl)-3-(1-ethoxymethyl-1H-pyrrol-2-yl)acrylonitrile | 705 mg | ClC1=CC=C(C=C1)/C(/C#N)=C/C=1N(C=CC1)COCC | C16H15ClN2O
